US06143933
Racemic 1-dimethylamino-2-propanol (100 g, 0.97 mol) was stirred with vinyl propionate (106 ml, 0.97 mol) at ambient temperature and Novozym 435 (6 g) was added. The reaction mixture was stirred slowly for 70 hours and after this time tlc (10% methanol/dichloromethane--visualise KMnO4 solution) indicated that the reaction had gone to 50% conversion. The enzyme was removed by filtration and the filter bed was washed with ethyl acetate (2×100 ml). The organic layer was then washed with water (4×100 ml) and the combined washes were back extracted with ethyl acetate (400 ml). The organic layer was then washed with brine (200 ml) and dried (MgSO4). The ethyl acetate was removed in vacuo to leave 58.7 g (0.37 mol, 70% based on maximum yield of 84.5 g) of (-)-1-dimethylamino-2-propyl propanoate as a yellow oil. δH (220 MHz; CDCl3) 1.13 (3H, t, 7 Hz, CH3CH2CO), 1.21 (3H, d, 6 Hz, H-3), 2.25 (6H, s, N(CH3)2),2.10-2.60 (4H, m, H-1 & CH3CH2CO), 5.09 (1H, m, H-2). The optical purity was not measured at this stage.

reactant | Racemic 1-dimethylamino-2-propanol | 0.97 mol, 100 g | CN(CC(C)O)C | C5H13NO
reactant | vinyl propionate | 0.97 mol, 106 ml | C(CC)(=O)OC=C | C5H8O2
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
solvent | methanol dichloromethane | CO.ClCCl
product | (-)-1-dimethylamino-2-propyl propanoate | 0.37 mol, 58.7 g, 70% | C(CC)(=O)OC(CN(C)C)C | C8H17NO2
